US07592360B2
(−)-cis-4-methylbenzyl 3-fluoro-4-[(1,3,4-thiadiazol-2-ylamino)methyl]piperidine-1-carboxylate
A suspension of (±)-cis 4-methylbenzyl 4-{[(hydrazinocarbonothioyl) amino]methyl}-3-fluoropiperidine-1-carboxylate (180 mg, 0.51 mmol) in ethanol (10 mL) was treated with triethyl orthoformate (151 mg, 1.02 mmol) and concentrated HCl (0.01 mL) and stirred at room temperature, under nitrogen, for 18 h. After all solids had dissolved, the reaction mixture was heated to reflux for 1.5 hour, cooled to room temperature and the volatiles evaporated. The residue was partitioned between ethyl acetate and dilute sodium bicarbonate solution, the organic layer washed with brine, dried over sodium sulfate and solvent evaporated. The crude product was purified by gradient elution on silica gel (50% ethyl acetate: hexane to 20% methanol: ethyl acetate) to give the title compound as a white solid. The (−)-enantiomer was separated and the hydrochloride salt formed as described in Examples 1 and 2 Step 7.

reactant | (±)-cis 4-methylbenzyl 4-{[(hydrazinocarbonothioyl) amino]methyl}-3-fluoropiperidine-1-carboxylate | 0.51 mmol, 180 mg | N(N)C(=S)NC[C@@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=C(C=C1)C)F | C16H23FN4O2S
reactant | triethyl orthoformate | 1.02 mmol, 151 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | HCl | 0.01 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (−)-cis-4-methylbenzyl 3-fluoro-4-[(1,3,4-thiadiazol-2-ylamino)methyl]piperidine-1-carboxylate | F[C@@H]1CN(CC[C@@H]1CNC=1SC=NN1)C(=O)OCC1=CC=C(C=C1)C | C17H21FN4O2S
